US07902394B2
(a) Ethyl 3-{3,4-difluoro-5-[(1S)-1-hydroxy-2-iodoethyl]phenyl}propanoate
Sodium iodide (3.34 g, 22.3 mmol) was added to a solution of ethyl 3-[3,4-difluoro-5-((1S)-1-hydroxy-2-{[(4-methylphenyl)sulfonyl]oxy}ethyl)phenyl]propanoate (0.950 g, 2.22 mmol) in acetone (9.0 mL). The reaction mixture was heated at reflux for 18 h. The reaction was cooled to room temperature and concentrated. The residue was diluted with H2O and extracted two times with ethyl acetate. The combined organic layers were washed with H2O and brine, dried over Na2SO4, filtered, and concentrated. Column chromatography (0-40% ethyl acetate:hexane) afforded 0.552 g (65%) of product: 1H NMR (400 MHz, chloroform-d) δ ppm 7.13 (d, J=5.81 Hz, 1 H) 7.01 (dd, J=10.61, 7.58 Hz, 1 H) 5.09 (dd, J=8.34, 3.54 Hz, 1 H) 4.15 (q, J=7.07 Hz, 2 H) 3.58 (dd, J=10.23, 3.16 Hz, 1 H) 3.41 (dd, J=10.36, 8.34 Hz, 1 H) 2.94 (t, J=7.58 Hz, 2 H) 2.62 (t, J=7.71 Hz, 2 H) 2.26 (s, 1 H) 1.26 (t, J=7.20 Hz, 3 H).

reactant | Sodium iodide | 22.3 mmol, 3.34 g | [I-].[Na+]
reactant | ethyl 3-[3,4-difluoro-5-((1S)-1-hydroxy-2-{[(4-methylphenyl)sulfonyl]oxy}ethyl)phenyl]propanoate | 2.22 mmol, 0.950 g | FC=1C=C(C=C(C1F)[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)O)CCC(=O)OCC | C20H22F2O6S
solvent | acetone | 9.0 mL | CC(=O)C | C3H6O
product | Ethyl 3-{3,4-difluoro-5-[(1S)-1-hydroxy-2-iodoethyl]phenyl}propanoate | 0.552 g, 65% | FC=1C=C(C=C(C1F)[C@@H](CI)O)CCC(=O)OCC | C13H15F2IO3
